US04264773
U.S. Pat. No. 3,711,513 teaches the preparation of 1-chloro-thioxanthone by reacting 2,6-dichloro-benzonitrile with an alkali metal salt of thiophenol to obtain 2-chloro-6-phenylthio-benzonitrile, which is reacted with polyphosphoric acid to give 1-chloro-9-imino-thioxanthene, this latter product being hydrolysed to 1-chloro-thioxanthone.

reactant | 1-chloro-thioxanthone | ClC1=CC=CC=2SC3=CC=CC=C3C(C12)=O | C13H7ClOS
reactant | 2,6-dichloro-benzonitrile | ClC1=C(C#N)C(=CC=C1)Cl | C7H3Cl2N
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 2-chloro-6-phenylthio-benzonitrile | ClC1=C(C#N)C(=CC=C1)SC1=CC=CC=C1 | C13H8ClNS
